US05801170
N-[2-Methoxy-5-nitrophenyl]-phenylacetamide
A stirred solution of 2-methoxy-5-nitroaniline (4.86 g, 0.029 mole) and triethylamine (5.2 ml, 0.037 mole) in dichloromethane (150 ml) at 0° C. was treated with phenylacetyl chloride (5.0 ml, 0.037 mole). The mixture was stirred for 0.5 h, then treated with water (20 ml), stirred for a further 20 mins., then basified with Na2CO3 and extracted with dichloromethane. The extract was washed with dil. HCl acid/brine, then dried (Na2SO4) and concentrated in vacuo to afford the title compound as a brown solid (9.0 g, 100%).

reactant | 2-methoxy-5-nitroaniline | 0.029 mole, 4.86 g | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | triethylamine | 0.037 mole, 5.2 ml | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 0.037 mole, 5.0 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | N-[2-Methoxy-5-nitrophenyl]-phenylacetamide | 9.0 g, 100% | COC1=C(C=C(C=C1)[N+](=O)[O-])NC(CC1=CC=CC=C1)=O | C15H14N2O4
